US06235740B1
A. N-(2-Fluorophenyl)-5-methyl-1H-imidazole-4-carboxamide
To ethyl-4-methyl-5-imidazolecarboxylate (5 g, 32.4 mmol) was added 20 mL of 2-fluoroaniline and potassium carbonate (8.9 g, 64.8 mmol). The reaction mixture was heated to reflux for 18 h then cooled to room temperature and concentrated in vacuo. Water and hexane were added and the precipitate filtered to give the crude product.

reactant | ethyl-4-methyl-5-imidazolecarboxylate | 32.4 mmol, 5 g | C(C)OC(=O)C1=C(N=CN1)C | C7H10N2O2
reactant | potassium carbonate | 64.8 mmol, 8.9 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-fluoroaniline | 20 mL | FC1=C(N)C=CC=C1 | C6H6FN
product | N-(2-Fluorophenyl)-5-methyl-1H-imidazole-4-carboxamide | FC1=C(C=CC=C1)NC(=O)C=1N=CNC1C | C11H10FN3O
